US08729061B2
Step A4: tert-butyl (2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxopentan-3-ylcarbamate
Under an atmosphere of argon, (2S,3S)-3-(tert-butoxycarbonylamino)-1-(cyclopropylamino)-1-oxopentan-2-yl acetate (1.09 g, 3.47 mmol, Eq: 1.00) and NaOH 1N in H2O (5.2 ml, 5.2 mmol, Eq: 1.5) were combined with methanol (10 ml) to give a colorless solution. The reaction was stirred for 2 h at RT. The reaction mixture was poured into 25 mL H2O and extracted with ethyl acetate (2×50 mL). The organic layers were dried over Na2SO4 and concentrated in vacuo. The title compound was obtained as a light brown solid (540 mg, 57.2%, MS (m/e)=273.4 [M+H+]).

reactant | (2S,3S)-3-(tert-butoxycarbonylamino)-1-(cyclopropylamino)-1-oxopentan-2-yl acetate | 3.47 mmol, 1.09 g | C(C)(=O)O[C@H](C(=O)NC1CC1)[C@H](CC)NC(=O)OC(C)(C)C | C15H26N2O5
reactant | NaOH | 1N | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
solvent | H2O | 25 mL | O | H2O
solvent | H2O | 5.2 mmol, 5.2 ml | O | H2O
product | tert-butyl (2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxopentan-3-ylcarbamate | C1(CC1)NC([C@H]([C@H](CC)NC(OC(C)(C)C)=O)O)=O | C13H24N2O4
